US09290517B2
Step B: 2-(((3R,3aR,6R,6aS)-6-((tert-butyldimethylsilyl)oxy)hexahydrofuro[3,2-b]furan-3-yl)oxy)-6-chloro-5-(4-(piperidin-4-ylethynyl)phenyl)-1-((2-(trimethylsilyl)ethoxy)-methyl)-1H-imidazo[4,5-b]pyridine
To a stirred solution of tert-butyl 4-((4-(2-(((3R,3aR,6R,6aS)-6-((tert-butyldimethylsilyl)oxy)hexahydrofuro[3,2-b]furan-3-yl)oxy)-6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-5-yl)phenyl)ethynyl)piperidine-1-carboxylate (147 mg, 0.178 mmol) in anhydrous DCM (2.0 mL) at room temperature was added trifluoroacetic acid (0.2 mL). The reaction was stirred for 2 h at room temperature, and then poured into saturated aqueous sodium bicarbonate (40 mL). The aqueous layer was extracted with ethyl acetate (2×50 mL). The combined organic layers were dried over sodium sulfate, and then concentrated under reduced pressure to afford the title compound as a colorless oil. LC-MS: calculated for C37H53ClN4O5Si2 724.32 observed m/e: 725.32 (M+H)+ (Rt 2.56/4 min).

reactant | tert-butyl 4-((4-(2-(((3R,3aR,6R,6aS)-6-((tert-butyldimethylsilyl)oxy)hexahydrofuro[3,2-b]furan-3-yl)oxy)-6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-5-yl)phenyl)ethynyl)piperidine-1-carboxylate | 0.178 mmol, 147 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2OC=2N(C=1C(=NC(=C(C1)Cl)C1=CC=C(C=C1)C#CC1CCN(CC1)C(=O)OC(C)(C)C)N2)COCC[Si](C)(C)C | C42H61ClN4O7Si2
reactant | trifluoroacetic acid | 0.2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | 40 mL | C([O-])(O)=O.[Na+]
solvent | DCM | 2.0 mL | C(Cl)Cl | CH2Cl2
product | 2-(((3R,3aR,6R,6aS)-6-((tert-butyldimethylsilyl)oxy)hexahydrofuro[3,2-b]furan-3-yl)oxy)-6-chloro-5-(4-(piperidin-4-ylethynyl)phenyl)-1-((2-(trimethylsilyl)ethoxy)-methyl)-1H-imidazo[4,5-b]pyridine | [Si](C)(C)(C(C)(C)C)O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2OC=2N(C=1C(=NC(=C(C1)Cl)C1=CC=C(C=C1)C#CC1CCNCC1)N2)COCC[Si](C)(C)C | C37H53ClN4O5Si2
